US05538960
(E)-17β-(3-(2-Dimethylaminoethyl)guanidinoimino)methyl-5β-androstane-3β,14β-diol (I-ag)
To a solution of 0.64 g of 1-amino-3-(2-dimethylaminoethyl)guanidine hydroiodide (prepared following the procedure described in Houben-Weil, Metoden der Organischen Chemie, Band VIII, page 183) in 20 ml of 10-4M hydrochloric acid a solution of 1.10 g of 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde (Boutagy J. and Thomas R., Aust. J. Chem., 1971, 24, 2723) in 25 ml of dioxane was added dropwise at room temperature. After 3 hrs, the solution was evaporated to dryness under reduced pressure. The crude product was purified by flash-chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 78/20/2 as eluant; the fractions containing the title compound were collected and evaporated to dryness. The residue was ground with di-iso-propyl ether to give 0.15 g of the title compound (I-ag) as hydroiodide, white solid.

reactant | 1-amino-3-(2-dimethylaminoethyl)guanidine hydroiodide | 0.64 g | I.NNC(=N)NCCN(C)C
reactant | 3β,14β-dihydroxy-5β-androstane-17β-carboxaldehyde | 1.10 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O)O | C20H32O3
solvent | hydrochloric acid | 10-4M, 20 ml | Cl | ClH
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | (E)-17β-(3-(2-Dimethylaminoethyl)guanidinoimino)methyl-5β-androstane-3β,14β-diol | 0.15 g | CN(CCNC(N\N=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)=N)C | C25H45N5O2
